US09388189B2
(S)-3-Hydroxy-N,N-dimethyl-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzamide
(S)-3-Hydroxy-N,N-dimethyl-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzamide (44 mg, 0.06 mmol, 89% purity) was treated with trifluoroacetic acid (880 μl, 11.42 mmol) and a solution of ammonia (7N in methanol, 880 μl, 6.16 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 15% dichloromethane-2-propanol) to obtain 27 mg (85% yield) of the title compound.

reactant | (S)-3-Hydroxy-N,N-dimethyl-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzamide | 0.06 mmol, 44 mg | OC=1C=C(C(=O)N(C)C)C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C36H42N8O4Si
reactant | trifluoroacetic acid | 11.42 mmol, 880 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 6.16 mmol, 7N, 880 μl | N | H3N
product | (S)-3-Hydroxy-N,N-dimethyl-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzamide | 27 mg, 85% yield | OC=1C=C(C(=O)N(C)C)C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C30H28N8O3
